US09216967B2
ethyl 2-methyl-5-nitrophenyl ether
A mixture of 2-methyl-5-nitrophenol (450 mg, 2.94 mmol), ethyl iodide (356 μl, 4.41 mmol) and potassium carbonate (609 mg, 4.41 mmol) in 15 mL of acetone was heated at reflux for 2 days. The reaction mixture was filtrated, concentrated under vacuum, and the residue was partitioned between ethyl acetate and water. The organic layer was dried over sodium sulfate and concentrated under vacuum to provide the title compound (397 mg) which was directly used in the next step.

reactant | 2-methyl-5-nitrophenol | 2.94 mmol, 450 mg | CC1=C(C=C(C=C1)[N+](=O)[O-])O | C7H7NO3
reactant | ethyl iodide | 4.41 mmol, 356 μl | C(C)I | C2H5I
reactant | potassium carbonate | 4.41 mmol, 609 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | ethyl 2-methyl-5-nitrophenyl ether | 397 mg | CC1=C(C=C(C=C1)[N+](=O)[O-])OCC | C9H11NO3
